US08389511B2
tert-Butyl (3R)-3-[{[4-((2S)-2-{[(benzyloxy)carbonyl]amino}propyl)-2,2-dimethyl-3-oxo-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate
To tert-butyl (3R)-3-[{[2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (100 mg) were added 2-hydroxycarbamic acid benzyl ester (49 mg), diisopropyl azodicarboxylate (0.26 ml), triphenylphosphine (122 mg) and tetrahydrofuran (3 ml), and the mixture was stirred at room temperature overnight. After the reaction was complete, the mixture was concentrated, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to give the title compound (120 mg).

reactant | tert-butyl (3R)-3-[{[2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 100 mg | CC1(OC2=C(NC1=O)C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C | C25H34F3N3O5
reactant | diisopropyl azodicarboxylate | 0.26 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 122 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3R)-3-[{[4-((2S)-2-{[(benzyloxy)carbonyl]amino}propyl)-2,2-dimethyl-3-oxo-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 120 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O)C | C36H47F3N4O7
